US06410556B1
To a solution of 2-hydroxy-6-methyl-benzoic acid ethyl ester (5.00 g, 27.8 mmol) and t-butyl-di-methylsilyl chloride (6.27 g, 41.6 mmol) in dichloromethane (100 ml) was added diisopropyl ethylamine. The solution was stirred at 50° C. for 24 hours, washed with water, brine, dried (MgSO4), filtered and the solvent evaporated in vacuo, which afforded 7.6 g (93%) of 2-(tert-butyl-dimethyl-silanyloxy)-6-methyl-benzoic acid ethyl ester as an oil.

reactant | 2-hydroxy-6-methyl-benzoic acid ethyl ester | 27.8 mmol, 5.00 g | C(C)OC(C1=C(C=CC=C1C)O)=O | C10H12O3
reactant | t-butyl-di-methylsilyl chloride | 41.6 mmol, 6.27 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | diisopropyl ethylamine | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-(tert-butyl-dimethyl-silanyloxy)-6-methyl-benzoic acid ethyl ester | 7.6 g, 93% | C(C)OC(C1=C(C=CC=C1C)O[Si](C)(C)C(C)(C)C)=O | C16H26O3Si
